US05919434
h) 1-[16-(16-Hexadecanoyloxyhexadecanoyloxy)-hexadecanoyloxy]ethyl 16-hydroxyhexadecanoate
Ethylidene bis (16-hydroxyhexadecanoate) (4.38 g, 7.67 mmol) was dissolved in THF (80 ml) and pyridine (0.61 g, 7.71 mmol) was added. 16-hexadecanoyloxyhexadecanoyl chloride (4.18 g, 7.90 mmol) was dissolved in THF (20 ml) and added dropwise. After 3 days at room temperature the mixture was filtered and the filtrate was left -20° C. for 2 hours. The precipitated product was filtered and purified by flash chromatography (silicagel, chloroform) to give 2.4 g (29%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 0.85 (t, 3H, CH3), 1.2-1.4 (s, 90H, --CH2 --), 1.45 (d, 3H, --O--CH(CH3)--O--), 1.5-1.7 (m, 14H, --CH2 --), 2.25 (m, 8H, --CH2 --C(O)--O--), 3.60 (t, 2H, --CH2 --OH), 4.05 (t, 4H, --C(O)--O--CH2 --), 6.85 (q, 1H, --O--CH(CH3)--O--). 13C NMR (75 MHz, CDCl3): δ 13.7, 19.1, 22.2, 24.2, 24.6, 25.2, 25.5, 28.2, 28.5, 28.7, 28.8, 29.0, 29.2, 31.5, 32.3, 33.7, 34.0, 62.5, 64.0, 88.0, 171.5, 173.5.

reactant | Ethylidene bis (16-hydroxyhexadecanoate) | 7.67 mmol, 4.38 g | OCCCCCCCCCCCCCCCC(=O)OC(C)OC(CCCCCCCCCCCCCCCO)=O | C34H66O6
reactant | pyridine | 7.71 mmol, 0.61 g | N1=CC=CC=C1 | C5H5N
reactant | 16-hexadecanoyloxyhexadecanoyl chloride | 7.90 mmol, 4.18 g | C(CCCCCCCCCCCCCCC)(=O)OCCCCCCCCCCCCCCCC(=O)Cl | C32H61ClO3
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-[16-(16-Hexadecanoyloxyhexadecanoyloxy)-hexadecanoyloxy]ethyl 16-hydroxyhexadecanoate | 2.4 g, 29% | OCCCCCCCCCCCCCCCC(=O)OC(C)OC(CCCCCCCCCCCCCCCOC(CCCCCCCCCCCCCCCOC(CCCCCCCCCCCCCCC)=O)=O)=O | C66H126O9
